US09260408B2
{2-[5-(1-Methyl-2-oxo-1,2,3,4-tetrahydro-quinolin-6-yl)-pyridin-3-yloxy]-ethyl}-carbamic acid tert-butyl ester
In analogy to the procedure described for the preparation of intermediate A-3 [C], 1-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-quinolin-2-one (intermediate A-1) has been coupled to [2-(5-bromo-pyridin-3-yloxy)-ethyl]-carbamic acid tert-butyl ester (intermediate A-7) to give the title compound as a white solid. MS: 398.1 (M+H+).

reactant | 1-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-quinolin-2-one | CN1C(CCC2=CC(=CC=C12)B1OC(C(O1)(C)C)(C)C)=O | C16H22BNO3
reactant | [2-(5-bromo-pyridin-3-yloxy)-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCOC=1C=NC=C(C1)Br)=O | C12H17BrN2O3
product | {2-[5-(1-Methyl-2-oxo-1,2,3,4-tetrahydro-quinolin-6-yl)-pyridin-3-yloxy]-ethyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCOC=1C=NC=C(C1)C=1C=C2CCC(N(C2=CC1)C)=O)=O | C22H27N3O4
